US04218464
4,5-Bis(trifluoromethyl)isatin (283 g., 1 mol.) is suspended in 1 L. of ethyl acetate and treated with m-chloroperbenzoic acid (172 g., 1 mol.), stirred until the oxidation is complete to yield 5,6-bis(trifluoromethyl)-isatoic anhydride.

reactant | 4,5-Bis(trifluoromethyl)isatin | 1 mol, 283 g | FC(C1=C2C(C(NC2=CC=C1C(F)(F)F)=O)=O)(F)F | C10H3F6NO2
reactant | m-chloroperbenzoic acid | 1 mol, 172 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,6-bis(trifluoromethyl)-isatoic anhydride | FC(C1=CC=C2C(C(=O)OC(N2)=O)=C1C(F)(F)F)(F)F | C10H3F6NO3
